US07939527B2
(1S,4S)-5-{2-[4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethyl}-2,5-diazabicyclo[2.2.1]heptane-2-carboxamide
To a solution of 2-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethyl methanesulfonate (100 mg, 0.29 mmol, 1.0 equiv.) and (1S,4S)-2-acetyl-2,5-diazabicyclo[2.2.1]heptane (48 mg, 0.34 mmol, 1.2 equiv.) in CH3CN (3 mL) was added K2CO3 (39 mg, 0.29 mmol, 1.0 equiv.). The solution was stirred at 80° C. for 16 h and then cooled to rt. Purification by preparative reverse phase HPLC produced a white solid (16%). 1H NMR (500 MHz, CDCl3): 8.57 (dd, J=4.8, 1.7, 1H), 8.03 (dd, J=7.9, 1.7, 1H), 7.36-7.28 (m, 4H), 7.22 (dd, J=7.9, 4.8, 1H), 4.32 (s, 2H), 3.61 (s, 1H), 3.23 (dd, J=8.8, 2.1, 1H), 3.02 (dd, J=9.5, 2.0, 1H), 3.53-3.46 (m, 1H), 2.90-2.77 (m, 4H), 2.73 (d, J=9.4, 1H), 1.92 (d, J=9.6, 1H), 1.77 (d, J=9.3, 1H), 1.62 (s, 1H). MS (ESI): mass calcd. for C20H21N5O2S, 395.14; m/z found, 396.1 [M+H]+.

reactant | 2-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethyl methanesulfonate | 0.29 mmol, 100 mg, 1.0 equiv. | CS(=O)(=O)OCCC1=CC=C(C=C1)OC=1SC=2C(=NC=CC2)N1 | C15H14N2O4S2
reactant | (1S,4S)-2-acetyl-2,5-diazabicyclo[2.2.1]heptane | 0.34 mmol, 48 mg, 1.2 equiv. | C(C)(=O)N1[C@@H]2CN[C@H](C1)C2 | C7H12N2O
reactant | K2CO3 | 0.29 mmol, 39 mg, 1.0 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3CN | 3 mL | CC#N | C2H3N
product | (1S,4S)-5-{2-[4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethyl}-2,5-diazabicyclo[2.2.1]heptane-2-carboxamide | 16% | S1C(=NC2=NC=CC=C21)OC2=CC=C(C=C2)CCN2[C@@H]1CN([C@H](C2)C1)C(=O)N | C20H21N5O2S
